US04814332
0.92 g of p-methoxyphenacyl bromide is added to a solution of 0.32 g of 1-[[p-(dimethylamino)-benzylidene]amino]-2-(p-methoxyphenyl)imidazole in 20 ml of 2-propanol. After stirring for 3 days with the exclusion of light, the mixture is evaporated. The residue is placed on a column loaded with 20 g of silica gel. The product is eluted with methylene chloride/methanol (9:1). After crystallization from ethanol/ether, there is obtained 3-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)-1-(p-methoxyphenacyl)imidazolium bromide of melting point 188°-191°.

reactant | p-methoxyphenacyl bromide | 0.92 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | 1-[[p-(dimethylamino)-benzylidene]amino]-2-(p-methoxyphenyl)imidazole | 0.32 g | CN(C1=CC=C(C=NN2C(=NC=C2)C2=CC=C(C=C2)OC)C=C1)C | C19H20N4O
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 3-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)-1-(p-methoxyphenacyl)imidazolium bromide | [Br-].CN(C1=CC=C(C=NN2C(=[N+](C=C2)CC(=O)C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)C=C1)C | InChI=1S/C28H29N4O3.BrH/c1-30(2)24-11-5-21(6-12-24)19-29-32-18-17-31(28(32)23-9-15-26(35-4)16-10-23)20-27(33)22-7-13-25(34-3)14-8-22;/h5-19H,20H2,1-4H3;1H/q+1;/p-1
